US05654299
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(3-pyridyl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative procedure), 4-(3-pyridyl)piperidine was alkylated using (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide. Chromatography of the crude product, with dichloromethane:methanol (9:1) as the eluent, followed by conversion to the hydrochloride salt gave the title compound as a white solid (0.253 g); mp 70°-140° C. (dec); NMR: 1.8-2.4 (m, 6), 2.73 (s, 3), 2.8-3.2 (broad s, 5), 7.0-7.2 (m, 3), 7.4 (s, 4), 7.5-7.7 (m, 2), 7.9 (m, 1), 8.2 (broad s, 1), 8.7 (d, 2 J=5); MS: m/z=496(M+1). Analysis for C28H31ClN3O·2.2 HCl·3 H2O: Calculated: C, 53.94; H, 6.31; N, 6.74; Found: C, 53.53; H, 6.16; N, 6.65.

reactant | 4-(3-pyridyl)piperidine | N1=CC(=CC=C1)C1CCNCC1 | C10H14N2
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
solvent | dichloromethane methanol | ClCCl.CO
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(3-pyridyl)piperidino]butyl]-N-methylbenzamide hydrochloride | 0.253 g | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C=1C=NC=CC1 | InChI=1S/C28H31Cl2N3O.ClH/c1-32(28(34)22-6-3-2-4-7-22)20-25(23-9-10-26(29)27(30)18-23)13-17-33-15-11-21(12-16-33)24-8-5-14-31-19-24;/h2-10,14,18-19,21,25H,11-13,15-17,20H2,1H3;1H/t25-;/m1./s1
